US07452892B2
D. Preparation of 5,6-bis(4-chlorophenyl)pyrimidine-2,4(1H,3H)-dione
To a solution of 1,3-dibenzyl-5,6-bis(4-chlorophenyl)pyrimidine-2,4(1H,3H)-dione (7.2 g, 14.0 mmol) in toluene (70 mL) was added AlCl3 (4.7 g, 35.2 mmol) under argon. The reaction mixture was stirred in an oil bath preheated at 85° C. for 2 h. The reaction mixture was cooled to room temperature and then poured onto crushed ice (100 g). The precipitate formed was collected by filtration, washed with water (30 mL×2) then ether (40 mL), and dried in a vacuum oven at 40° C. to obtain 4.2 g of the title compound as a brown solid. HPLC/MS (MeOH-water with 10 mM NH4OAc): retention time=3.433 min, [M+H]30 =333.

reactant | 1,3-dibenzyl-5,6-bis(4-chlorophenyl)pyrimidine-2,4(1H,3H)-dione | 14.0 mmol, 7.2 g | C(C1=CC=CC=C1)N1C(N(C(C(=C1C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O)CC1=CC=CC=C1)=O | C30H22Cl2N2O2
reactant | AlCl3 | 35.2 mmol, 4.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 5,6-bis(4-chlorophenyl)pyrimidine-2,4(1H,3H)-dione | 4.2 g | ClC1=CC=C(C=C1)C=1C(NC(NC1C1=CC=C(C=C1)Cl)=O)=O | C16H10Cl2N2O2
